US03984398
5 g. of N-carbethoxy acetyl N-methyl 4-methoxy 2-nitro aniline are dissolved in 50 cc. of hot ethanol. After cooling, 15 cc. of water and 3 cc. of a 2% solution of palladium chloride are added. Then 5 cc. of a 20% aqueous solution of sodium borohydride are introduced, while cooling. This is agitated for thirty minutes, without allowing the temperature to exceed 40° C. Then, the excess of reagent is decomposed by acidifying to pH = 2 with hydrochloric acid. After cessation of the gaseous emission, the medium is filtered then neutralised with addition of ammonium hydroxide, N-carbethoxy acetyl N-methyl 4-methoxy o-phenylene diamine precipitates. The precipitate is filtered, washed with water, filtered with suction and dried. Thus, there are obtained 3.75 g of N-carbethoxy acetyl N-methyl 4-methoxy o-phenylene diamine, which is purified by recrystallization in ethanol.

reactant | N-carbethoxy acetyl N-methyl 4-methoxy 2-nitro aniline | C(=O)(OCC)CC(=O)N(C1=C(C=C(C=C1)OC)[N+](=O)[O-])C | C13H16N2O6
reactant | ethanol | C(C)O | C2H6O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
catalyst | palladium chloride | [Pd](Cl)Cl
solvent | water | O | H2O
product | N-carbethoxy acetyl N-methyl 4-methoxy o-phenylene diamine | 3.75 g | C(=O)(OCC)CC(=O)N(C1=C(C=C(C=C1)OC)N)C | C13H18N2O4
